US07994185B2
Step C: Methyl 3-amino-2,6-difluorobenzoate
To a solution of methyl 2,6-difluoro-3-nitrobenzoate (25 g, 115 mmol) in MeOH (150 mL) was added 5% palladium on carbon (2.5 g). The mixture was stirred under H2 atmosphere (50 psi/25° C.) for 12 h. The catalyst was filtered, and the filtrate was concentrated under the reduced pressure to dryness to give the product of Step C (20 g, 93.0%). 1H NMR (400 MHz, DMSO-d6) δ ppm 6.95-7.10 (m, 2H), 3.86 (s, 3H)

reactant | methyl 2,6-difluoro-3-nitrobenzoate | 115 mmol, 25 g | FC1=C(C(=O)OC)C(=CC=C1[N+](=O)[O-])F | C8H5F2NO4
solvent | MeOH | 150 mL | CO | CH4O
catalyst | palladium on carbon | 2.5 g | [Pd] | Pd
product | Methyl 3-amino-2,6-difluorobenzoate | 20 g, 93.0% | NC=1C(=C(C(=O)OC)C(=CC1)F)F | C8H7F2NO2
